US06790860B2
0.37 ml (2.25 mmol) DEAD was added at −15° C. to 590 mg (2.25 mmol) triphenylphosphine in 3 ml THF. Then a solution of 497 mg (1.5 mmol) (2S,4R)-[1-methanesulfonyl-4-(4-methoxy-benzylsulfanyl)-pyrrolidin-2-yl]-methanol and 146 mg (1.5 mmol) phenol in 2 ml THF was added. The reaction was stirred at 0° C. over night, heated to reflux and evaporated under reduced pressure. Flash silica gel column (hexane/EtOAc 4:1) gave 240 mg (39%) of (2S,4R)-1-methanesulfonyl-4-(4-methoxy-benzylsulfanyl)-2-phenoxymethyl-pyrrolidine, mp 92-94° C., MS: 408 (MH+).

reactant | DEAD | 2.25 mmol, 0.37 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 2.25 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2S,4R)-[1-methanesulfonyl-4-(4-methoxy-benzylsulfanyl)-pyrrolidin-2-yl]-methanol | 1.5 mmol, 497 mg | CS(=O)(=O)N1[C@@H](C[C@H](C1)SCC1=CC=C(C=C1)OC)CO | C14H21NO4S2
reactant | phenol | 1.5 mmol, 146 mg | C1(=CC=CC=C1)O | C6H6O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (2S,4R)-1-methanesulfonyl-4-(4-methoxy-benzylsulfanyl)-2-phenoxymethyl-pyrrolidine | 240 mg, 39% | CS(=O)(=O)N1[C@@H](C[C@H](C1)SCC1=CC=C(C=C1)OC)COC1=CC=CC=C1 | C20H25NO4S2
